US06677352B1
To a solution of 2-anilino-7-chloro-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one (100 mg, 0.241 mmol) in DMSO (5 mL) was added methyl sulfonamide and K2CO3 (76.5 mg, 0.554 mmol). The reaction was stirred at 120° C. for 24 h. The reaction was then cooled to room temperature, quenched with water and extracted with Et2O. The organic layers were dried over MgSO4, and concentrated in vacuo. The crude residue was then passed through a plug of silica gel eluting with 1:1 Hex:EtOAc to 9:1 CH2Cl2:MeOH to afford N-[7-anilino-5-oxo-8-phenyl-4-(trifluoromethyl)-5,8-dihydro-1,8-naphthyridin-2-yl]methanesulfonamide as a white solid (4.4 mg, 4%): LCMS RT: 2.45, MH+: 475.2.

reactant | 2-anilino-7-chloro-1-phenyl-5-(trifluoromethyl)-1,8-naphthyridin-4(1H)-one | 0.241 mmol, 100 mg | N(C1=CC=CC=C1)C=1N(C2=NC(=CC(=C2C(C1)=O)C(F)(F)F)Cl)C1=CC=CC=C1 | C21H13ClF3N3O
reactant | methyl sulfonamide | CS(=O)(=O)N | CH5NO2S
reactant | K2CO3 | 0.554 mmol, 76.5 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
product | N-[7-anilino-5-oxo-8-phenyl-4-(trifluoromethyl)-5,8-dihydro-1,8-naphthyridin-2-yl]methanesulfonamide | 4.4 mg, 4% | N(C1=CC=CC=C1)C1=CC(C=2C(=CC(=NC2N1C1=CC=CC=C1)NS(=O)(=O)C)C(F)(F)F)=O | C22H17F3N4O3S
